US04772620
2-Cyano-5-hydroxymethylpyridine (13.4 g) and pyridine (8.7 g) were dissolved in toluene (150 ml), and a solution of p-toluenesufonyl chloride (19.1 g) in toluene (50 ml) was added dropwise at room temperature to the solution. After the addition, the mixture was gradually heated, and stirred at 70° to 80° C. for 4 hours. The reaction mixture was cooled to room temperature, and washed with water. The organic layer was dried. Toluene was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to give 2-cyano-5-pyridylmethyl chloride (7.7 g) as colorless crystals.

reactant | 2-Cyano-5-hydroxymethylpyridine | 13.4 g | C(#N)C1=NC=C(C=C1)CO | C7H6N2O
reactant | pyridine | 8.7 g | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesufonyl chloride | 19.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-cyano-5-pyridylmethyl chloride | 7.7 g | C(#N)C1=NC=C(C=C1)CCl | C7H5ClN2
